US04324796
A mixture of 104 ml of 15% strength butyl-lithium (in hexane), 19 g of diisopropylamine and 400 ml of tetrahydrofuran is stirred together at -78°; 39 g of 5-(2-chlorophenyl)-2-acetylvaleric acid ethyl ester [prepared from 3-(2-chlorophenyl)propyltosylate and ethyl acetoacetate] are added dropwise to the resulting admixture. The mixture thus obtained is stirred for a further 20 minutes. After removing the cooling bath, 19.4 g of paraformaldehyde (anhydrous) are added in portions to the mixture. After stirring the mixture for 1 hour, it is heated under reflux for 5 hours and left to stand overnight. The solid constituents are filtered off, and the filtrate is concentrated in a rotary evaporator. 500 ml of saturated sodium bicarbonate solution are added to the residue, and the mixture is stirred for 30 minutes. Extraction with methylene chloride and evaporation of the solvent yield (after purification by distillation) 14 g of 5-(2-chlorophenyl)-2-methylenevaleric acid ethyl ester of b.p. 95° to 98° C. under 0.005 mm Hg. The title compound is obtained analogously to Example 4a by oxidation.

reactant | butyl-lithium | C(CCC)[Li]
reactant | diisopropylamine | 19 g | C(C)(C)NC(C)C | C6H15N
reactant | 5-(2-chlorophenyl)-2-acetylvaleric acid ethyl ester | 39 g | C(C)OC(C(CCCC1=C(C=CC=C1)Cl)C(C)=O)=O | C15H19ClO3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 5-(2-chlorophenyl)-2-methylenevaleric acid ethyl ester | 14 g | C(C)OC(C(CCCC1=C(C=CC=C1)Cl)=C)=O | C14H17ClO2
